'matrix probe test
v1 (1 0) 1
r1 (1 2) 1
r2 (2 0) 1
.print op v(nodes)
.op
.print op mdy(nodes)
.op
.print op mdz(nodes)
.op
.print op zero(nodes)
.op
.print op ndz(nodes)
.op
.print op pdz(nodes)
.op
.print op nan(nodes)
.op
.print op v(0)
.options trace
.print op v(nodes)
